** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/self-cascode-nmos-op.sch
**.subckt self-cascode-nmos-op
Vgs G GND 0.5
Vds D GND 1.2
Vd D net2 0
.save i(vd)
XM1 net1 G GND GND sg13_lv_nmos w=12.5u l=0.87u ng=2 m=1
XM2 net2 G net1 net3 sg13_lv_nmos w=12.5u l=0.5u ng=2 m=1
Vb net3 GND 0.6
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt
.lib cornerRES.lib res_typ



.param temp=27
.options savecurrents
.control
save all

show @n.xm1.nsg13_lv_nmos
show @n.xm2.nsg13_lv_nmos

* Save transistor parameters
save @n.xm1.nsg13_lv_nmos[vth]
save @n.xm1.nsg13_lv_nmos[vgs]
save @n.xm1.nsg13_lv_nmos[vds]
save @n.xm1.nsg13_lv_nmos[vgt]
save @n.xm1.nsg13_lv_nmos[ids]
save @n.xm1.nsg13_lv_nmos[gm]
save @n.xm1.nsg13_lv_nmos[gds]
save @n.xm1.nsg13_lv_nmos[gmb]
save @n.xm1.nsg13_lv_nmos[cgs]
save @n.xm1.nsg13_lv_nmos[cgd]
save @n.xm1.nsg13_lv_nmos[fug]
save @n.xm1.nsg13_lv_nmos[rg]
save @n.xm1.nsg13_lv_nmos[vsb]
save @n.xm2.nsg13_lv_nmos[vth]
save @n.xm2.nsg13_lv_nmos[vgs]
save @n.xm2.nsg13_lv_nmos[vds]
save @n.xm2.nsg13_lv_nmos[vgt]
save @n.xm2.nsg13_lv_nmos[ids]
save @n.xm2.nsg13_lv_nmos[gm]
save @n.xm2.nsg13_lv_nmos[gds]
save @n.xm2.nsg13_lv_nmos[gmb]
save @n.xm2.nsg13_lv_nmos[cgs]
save @n.xm2.nsg13_lv_nmos[cgd]
save @n.xm2.nsg13_lv_nmos[fug]
save @n.xm2.nsg13_lv_nmos[rg]


* Operating Point Analysis
op
remzerovec
write self-cascode-nmos-op.raw

quit
.endc

**** end user architecture code
**.ends
.GLOBAL GND
.end
