** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/self-cascode-nmos-tran.sch
**.subckt self-cascode-nmos-tran
Vgs G GND 0.5
Vds D GND 1.2
Vd D net1 0
.save i(vd)
XM1 s G GND GND sg13_lv_nmos w=12.5u l=0.5u ng=2 m=1
XM2 net1 G s B sg13_lv_nmos w=12.5u l=0.5u ng=2 m=1
Vb B GND 0.6
**** begin user architecture code


.control
save all
tran 10n 6u
write self-cascode-nmos-tran.raw
.endc



.lib cornerMOSlv.lib mos_tt
.lib cornerRES.lib res_typ

**** end user architecture code
**.ends
.GLOBAL GND
.end
