** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/self-cascode-nmos.sch
**.subckt self-cascode-nmos
Vgs G GND 0.6
Vds D GND 1.2
Vd D net2 0
.save i(vd)
XM1 net1 G GND GND sg13_lv_nmos w={wx} l={l1} ng=3 m=1
XM2 net2 G net1 net3 sg13_lv_nmos w={wx} l={l2} ng=3 m=1
Vb net3 GND 0.4
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt
.lib cornerRES.lib res_typ


.param l1=0.2u
.param l2='2u - l1'
.param wx = 30u
.control
save @n.xm1.nsg13_lv_nmos[gm]
save @n.xm1.nsg13_lv_nmos[gds]
save @n.xm1.nsg13_lv_nmos[l]
save @n.xm2.nsg13_lv_nmos[gm]
save @n.xm2.nsg13_lv_nmos[gds]
save @n.xm2.nsg13_lv_nmos[gmb]
save @n.xm2.nsg13_lv_nmos[vbs]
compose l1_vec start=0.13u stop=1.87u step=0.05u

let gm_vec  = vector(length(l1_vec))
let rout_vec  = vector(length(l1_vec))

let idx = 0

foreach val $&l1_vec
    alterparam l1 = $val
    alterparam l2 = 1u - $val

    reset
    op

    let gm_val1  = @n.xm1.nsg13_lv_nmos[gm]
    let gds_val1 = @n.xm1.nsg13_lv_nmos[gds]
    let gm_val2 = @n.xm2.nsg13_lv_nmos[gm]
    let gds_val2 = @n.xm2.nsg13_lv_nmos[gds]
    let gmb_val2 = @n.xm2.nsg13_lv_nmos[gmb]

    let r1 = 1 / gds_val1
    let r2 = 1 / gds_val2

    * Lưu vào vector

    let gm_vec[idx]   = gm_val1
    let rout_vec[idx] = (gm_val2 + gmb_val2) * r1 * r2
    let idx = idx + 1
end

plot gm_vec vs l1_vec xlabel 'L1 (m)' ylabel 'gm (S)'
plot rout_vec vs l1_vec xlabel 'L1 (m)' ylabel 'Rout (Ohm)'

.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
