** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/self-cascode-pmos-tran.sch
**.subckt self-cascode-pmos-tran
Vgs G GND 0.3
Vds D GND 1.2
Vd D net1 0
.save i(vd)
Vb B GND 0.2
XM1 S G net1 D sg13_lv_pmos w=5 l=4.87 ng=1 m=1
XM2 GND net2 S B sg13_lv_pmos w=5 l=0.13 ng=1 m=1
**** begin user architecture code


.control
save all
tran 10n 6u
write self-cascode-pmos-tran.raw
.endc



.lib cornerMOSlv.lib mos_tt
.lib cornerRES.lib res_typ

**** end user architecture code
**.ends
.GLOBAL GND
.end
